Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12],3.7767160406
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][O:10][H:11]>>[C:5]([H:6])([H:7])[O:8][C:9][O:10][H:11].[H:1][C:2]#[C:3][H:4],1.54114685864
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6].[H:7]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][H:7],-5.16203137507
[C:1]#[C:2][H:3].[O:4]=[C:5]([H:6])[C:7]#[C:8]>>[C:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]#[C:8],-1.73285675644
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][H:7].[O:8]=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[O:8][C:9]([H:10])[H:11],-0.16683073935
[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])[O:5][C:6]#[C:7][H:8]>>[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])=[C:9]([H:10])[H:11],-4.58155597184
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([O:4][H:5])[C:6]#[C:8][C:9]([H:10])([H:11])[H:12].[H:7],2.27885048223
[C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13],-1.27227565614
[H:1][C:2]([H:3])=[C:4][C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:6],1.7271208907099995
[H:1].[O:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.7015068690699993
[H:1][O:2]/[C:3]([H:4])=[C:6]/[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-2.9571489035000003
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][O:3],3.4335077816400004
[H:1][C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-2.8844656747500004
[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][H:7]>>[C:1]#[C:2][H:3].[C:4]([H:5])[O:6][H:7],3.68707993372
[H:1][C:2].[O:3]=[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-3.26444206892
[H:1][C:2]#[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:3]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-2.41227308742
[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][H:11]>>[H:11].[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10],3.809133245990002
[H:1][O:2][C:3]([C:4]=[C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],1.27012871552
[C:1][C:2]([H:3])([H:4])[O:5][C:6](=[C:7])[O:8][H:9]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6][O:8][H:9].[C:7],3.90383597635
[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13],4.60601647325
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]=[O:8].[H:9],4.06183670026
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:6],2.93534350389
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10][H:11],5.61500660809
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:8]([H:9])([H:10])([C:11][H:12])[H:16].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:13]([H:14])[H:15],4.83227001817
[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-1.9648714319
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10],3.85816899986
[H:1][O:2][C:3][O:5][C:6]([H:7])([H:8])[H:9].[H:4]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9],-2.6850838886000004
[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.63015447306
[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-2.9159234468799995
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])=[C:9][H:10]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.604584819069999
